US06943225B2
1,2-bis[4-(3,4-dimethylcyclopentadienyl)phenyl]ethane (1,2-[4-(C5Me2H3)C6H4]2(CH2CH2))
3.400 g (10 mmol) of 1,2-di(4-bromophenyl) ethane prepared in Synthesis Example 4-1 was dissolved in 50 ml of diethylether, and the solution was cooled down to 0° C. 8.4 ml (2.1 equivalents, 21 mmol) of n-butyllithium was dropped into the solution with a syringe. The solution was stirred for one hour at 0° C., slowly warmed to the room temperature and then stirred for more 2 hours to form a white precipitate. After making the precipitate settle and discarding the supernatant, the precipitate was dissolved in 30 ml of THF at −78° C. In a separate flask, 2.183 g (20.0 mmol) of 3,4-dimethyl-2-cyclopentenone was mixed with 20 ml of THF and the resulting solution was slowly dropped into the precipitate solution with a cannular. The mixed solution was slowly warmed to the room temperature and stirred for more than 6 hours to form a light yellowish solution. After adding an appropriate amount of a saturated ammonium chloride aqueous solution to terminate the reaction, the organic layer was extracted with 50 ml (×3) of diethylether, dried on anhydrous magnesium sulfate and then filtered. The solution was removed of the solvent on a rotary evaporator to obtain a yellowish sticky oil. This oil was dissolved in 50 ml of methylene chloride and mixed Faith a catalytic amount (0.1 g) of p-toluene sulfonate hydrate. The resulting solution was stirred for 2 hours at the room temperature to form a light brown solid. With the solvent vaporized on the rotary evaporator until the solid was wet, the solid was washed with 30 ml of hexane and filtered out. The solid was washed with 30 ml (×3) of anhydrous ethanol and 30 ml (×2) of pentane and dried under vacuum to obtain 2.314 g (63% yield) of an ivory solid.

reactant | 1,2-di(4-bromophenyl) ethane | 10 mmol, 3.400 g | BrC1=CC=C(C=C1)CCC1=CC=C(C=C1)Br | C14H12Br2
reactant | n-butyllithium | 21 mmol, 8.4 ml, 2.1 equivalents | C(CCC)[Li]
reactant | 3,4-dimethyl-2-cyclopentenone | 20.0 mmol, 2.183 g | CC1=CC(CC1C)=O | C7H10O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | p-toluene sulfonate hydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1,2-bis[4-(3,4-dimethylcyclopentadienyl)phenyl]ethane | 2.314 g, 63% yield | CC1=CC(C=C1C)C1=CC=C(C=C1)CCC1=CC=C(C=C1)C1C=C(C(=C1)C)C | C28H30
